US06455528B1
(5) Synthesis of N-(1-(4-((4-Phenylpiperazin-1-yl)methyl)phenyl)cyclopropyl)acetamide
To a solution of (4-((4-phenylpiperazin-1-yl)methyl)-phenylcyclopropanecarboxylic acid (1.0 g) and triethylamine (0.42 ml) in tetrahydrofuran (70 ml) was added ethyl chlorocarbonate (0.29 ml) under ice-cooling and the mixture was stirred at 0° C. for 1 hr and 20 min. To this solution was added a solution of sodium azide (0.2 g) in water (3 ml) under ice-cooling, and the mixture was stirred for 30 min and left standing overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a brown oil. The oil was dissolved in benzene (20 ml) and refluxed under heating for 40 min. The reaction mixture was ice-cooled and methylmagnesium bromide (3M, tetrahydrofuran solution) (0.93 ml) was added dropwise. The mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a colorless oil. The oil was subjected to silica gel column chromatography (developing solvent; ethyl acetate:methanol=20:1) to give a white solid. This solid was recrystallized from ethyl acetate-isopropyl ether to give the title compound (0.52 g) as white crystals, m.p.=129-139.5° C.

reactant | 4-((4-phenylpiperazin-1-yl)methyl)-phenylcyclopropanecarboxylic acid | 1.0 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)C1(CC1)C(=O)O | C21H24N2O2
reactant | ethyl chlorocarbonate | 0.29 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 0.2 g | [N-]=[N+]=[N-].[Na+]
reactant | methylmagnesium bromide | 3M, 0.93 ml | C[Mg]Br
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
product | N-(1-(4-((4-Phenylpiperazin-1-yl)methyl)phenyl)cyclopropyl)acetamide | 0.52 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)C1(CC1)NC(C)=O | C22H27N3O
